US06518423B1
8-(Aminomethyl)10H-pyrazino[2,3-b][1,4]benzothiazine hydrochloride
To a solution of 5.0 g of 8-(aminomethyl)-10H-pyrazino[2,3-b][1,4]benzothiazine in a mixture of dry methanol (5 ml)/ethyl acetate (30 ml) was added 10 ml of a solution of 22 g of hydrogen chloride in 500 ml of ethyl acetate and the resulting mixture was subjected to ultrasonication. To the crystals thus precipitated was added diethyl ether followed by filtration. Thus, the title compound was obtained as orange crystals almost quantitatively.

reactant | 8-(aminomethyl)-10H-pyrazino[2,3-b][1,4]benzothiazine | 5.0 g | NCC=1C=CC2=C(NC3=C(S2)N=CC=N3)C1 | C11H10N4S
reactant | methanol | 5 ml | CO | CH4O
reactant | hydrogen chloride | 22 g | Cl | ClH
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 8-(Aminomethyl)10H-pyrazino[2,3-b][1,4]benzothiazine hydrochloride | Cl.NCC=1C=CC2=C(NC3=C(S2)N=CC=N3)C1 | InChI=1S/C11H10N4S.ClH/c12-6-7-1-2-9-8(5-7)15-10-11(16-9)14-4-3-13-10;/h1-5H,6,12H2,(H,13,15);1H
